US08314253B2
3,6-Dimethoxy-benzene-1,2-diamine was synthesized by dissolving 6.0 g of 1,4-dimethoxy-2,3-dinitro-benzene (Eur. J. Org. Chem. 2006, 2786-2794) in 220 mL EtOH, evacuating 3 times with N2 and adding 600 mg of 10wt % Pd/C. The reaction was stirred under a H2 atmosphere (balloon). Another 300 mg of 10wt % Pd/C were added after 2 days and the mixture was stirred for another 24 h. Filtration over a pad of celite and washing with EtOH and EtOAc yielded after concentration in vacuo 4.3 g of the desired compound as black solid.

reactant | 1,4-dimethoxy-2,3-dinitro-benzene | 6.0 g | COC1=C(C(=C(C=C1)OC)[N+](=O)[O-])[N+](=O)[O-] | C8H8N2O6
solvent | EtOH | 220 mL | CCO | C2H6O
product | 3,6-Dimethoxy-benzene-1,2-diamine | COC1=C(C(=C(C=C1)OC)N)N | C8H12N2O2
